US08207164B2
c) (S)-2-(5-Bromo-2-fluoro-phenyl)-propane-1,2-diol
To a suspension of K3Fe(CN)6 (186 g, 561 mmol), K2CO3 (78 g, 561 mmol), (DHQ)2-PHAL (1.311 g, 1.674 mmol) and K2OsO2(OH)4 (0.378 g, 1 mmol) in t-BuOH—H2O 1:1 (1600 ml) was added 4-bromo-1-fluoro-2-isopropenyl-benzene (36 g, 167 mmol) at 0° C. and the reaction mixture was stirred for 14 h at 0° C. After careful addition of Na2S2O5 (100 g) at 0-5° C. the reaction mixture was stirred for 1 h before extraction with EtOAc. Combined extracts were washed with 5% NaS3O3 solution and brine, dried over MgSO4, filtered and concentrated to give the title compound as a white solid: TLC (hexane-EtOAc 1:1): Rf=0.46; HPLC RtH5=0.767 min; ESIMS: 266, 268 [(M+NH4)+]; 1H NMR (360 MHz, CDCl3): δ 7.71 (dd, 1H), 7.27 (m, 1H), 6.83 (dd, 1H), 3.85 (d, 1H), 3.62 (d, 1H), 2.94 (s, 3H), 2.01 (s, 1H), 1.43 (s, 3H).

reactant | K2CO3 | 561 mmol, 78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (DHQ)2-PHAL | 1.674 mmol, 1.311 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 4-bromo-1-fluoro-2-isopropenyl-benzene | 167 mmol, 36 g | BrC1=CC(=C(C=C1)F)C(=C)C | C9H8BrF
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | t-BuOH—H2O | 1600 ml | C(C)(C)(C)O.O
product | (S)-2-(5-Bromo-2-fluoro-phenyl)-propane-1,2-diol | BrC=1C=CC(=C(C1)[C@](CO)(C)O)F | C9H10BrFO2
